US04297516
Preparation of Trimethylsilyl Methylthioacetate
To a stirred solution of 164.5 g. (1.55 mol) of methylthioacetic acid in 150 ml. of pyridine and 200 ml. of THF was added 187.6 g. (1.16 mol) of HMDS followed by the dropwise addition of 50.5 g. (0.46 mol) of TMS-Cl. The solution was diluted with an equal volume of petroleum ether and filtered through Celite. The solvent was removed and the residue was distilled (54°-57°, 1.55 mm.) to give 207.6 g. (75%) of 10: 'H NMRδMe4Si (CDCl3) 3.02 (s, 2H, CH2), 2.04 (s, 3H, SCH3), 0.16 (s, 9H, Si(CH3)3); IR (neat) 1718 cm-1.

reactant | methylthioacetic acid | 1.55 mol | CCC(=S)O | C3H6OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | HMDS | 1.16 mol | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | TMS-Cl | 0.46 mol | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | THF | C1CCOC1 | C4H8O
product | Trimethylsilyl Methylthioacetate | CCC(=S)O[Si](C)(C)C | C6H14OSSi
